US04623661
3-biphenyl hydroxamic acid
Using the procedure of Example 1 part (b), but using 3-biphenyl carboxylic acid and hydroxylamine hydrochloride, the desired compound was obtained.

reactant | 3-biphenyl carboxylic acid | C1(=CC(=CC=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 3-biphenyl hydroxamic acid | C1(=CC(=CC=C1)C(=O)NO)C1=CC=CC=C1 | C13H11NO2
